Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier / Spironolactone / Asacol
 
Attending: ___
 
Chief Complaint:
Fevers, tremors, chills. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
patient is a ___ man with history of atrial fibrillation 
on coumadin and ulcerative colitis s/p recent admission for 
lower GIB (on prednisone taper) who presents from home with 
fevers and chills.
.
On initial evaluation in the ED, his vitals were T 101, HR 84, 
BP 146/112, RR 16, sat 96% ___. Labs notable for white count of 
1.3 (69% polys, 14% lymphs, no bands) - down from recent 1.3 - 
with hct 33 (stable at baseline), lactate 3.0, normal LFTs, INR 
2.4 (on coumadin). Creatinine was 1.3 (at baseline). CXR showed 
no acute cardiopulmonary process. UA was normal. Blood and urine 
cultures were drawn and patient given vancomycin 1g and Zosyn in 
addition to 500 mg Tylenol. GI was contacted in the ED and 
advised admit to medicine, can consult if needed. Patient was 
then admitted for further work-up.
.
Of note, patient was recently admitted ___ for diarrhea 
that was felt to be secondary to UC. Patient underwent 
colonoscopy on ___ that showed luminal narrowing at the sigmoid 
with mild colitis; biopsies showed active colitis with no 
evidence of malignancy. He was started on prednisone 40 mg daily 
and asacol 800 mg tid with marked improvement in his symptoms. 
Infectious GI workup was negative; biopsy for CMV was negative. 
Patient was discharged with a slow prednisone taper and 
increased dose of Asacol to 1600 mg tid. Omeprazole was also 
added during that admission. Hydrochlorothiazide, lisinopril, 
and colchicine were all stopped. 
 
Past Medical History:
1. Atrial fibrillation
2. Hypertension 
3. Peripheral vascular disease
4. Chronic renal insufficiency: Baseline Cr=1.3-1.6
5. Impaired fasting glucose 
6. Chronic lower extremity edema 
7. h/o prostate cancer
8. Hyperlipidemia 
9. Gout
10. Erectile dysfunction
11. OSA 
12. History of melanoma
13. Restless leg syndrome
14. Osteoarthritis
15. h/o tremor
 
Social History:
___
Family History:
Brother - died of stomach cancer.  
Father - ___ Disease 
Mother - ___ Disease.
 
Physical Exam:
Vitals: 97 86 110/70 18 97RA
General: Pleasant, laughing, elderly man in NAD
HEENT: MMM
Neck: Supple
Lungs: CTAB, no WRR
Heart: RRR, no RMG, no JVD
Abdomen: Soft, NTND, +BS
Extremities: No edema 
 
Pertinent Results:
___ 08:55AM BLOOD WBC-1.3*# RBC-3.64* Hgb-10.7* Hct-33.0* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-15.0 Plt ___
___ 08:55AM BLOOD Neuts-69.4 Lymphs-14.8* Monos-4.2 
Eos-10.9* Baso-0.8
___ 08:55AM BLOOD ___ PTT-33.7 ___
___ 08:55AM BLOOD Glucose-234* UreaN-35* Creat-1.3* Na-137 
K-4.2 Cl-99 HCO3-26 AnGap-16
___ 08:55AM BLOOD ALT-39 AST-25 LD(LDH)-225 AlkPhos-70 
Amylase-31 TotBili-0.4
___ 06:50AM BLOOD Calcium-7.9* Phos-1.9* Mg-1.6
___ 11:15AM BLOOD %HbA1c-7.2* eAG-160*
___ 09:05AM BLOOD Lactate-3.0* K-4.1
___ 08:05PM BLOOD Lactate-3.5*
___ 10:05AM BLOOD Lactate-2.5*
___ 07:15AM BLOOD Lactate-1.8

___   Radiology ABDOMEN (SUPINE & ERECT  There are 
multiple segments of dilated small bowel. Air is seen within the
colon. No ___ colon identified. No pathologically dilated 
bowel. Findings
concerning for small-bowel obstruction, however. Surgical clips 
are
identified in the pelvis.  
   
___   Radiology CHEST (PA & LAT)  PA AND LATERAL CHEST 
RADIOGRAPHS: The cardiomediastinal silhouette is stable.
There is stable mild hilar prominence. The lungs are well 
expanded and clear.
The pleural surfaces are smooth without pleural effusions or 
pneumothorax.
IMPRESSION: No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ man with recent diagnosis of 
ulcerative colitis presenting with fevers and rigors.
.
# Fevers, chills, near neutropenia. Patient initially with ___ 
SIRS criteria positive with leukopenia and fever, however no 
clear source for infection as pt without symptoms. Suspected GI 
source as a possible cause, possibly a superimposed infectious 
colitis on top of patient's ulcerative colitis. Emperic 
vancomycin and zosyn was started given the patient was 
borderline neutrapenic (ANC of 897 initially), however abx were 
dc'd as pts neutropenia improved with cessation of asacol and pt 
was without abd pain or focal sxs to suggest a source. Urine and 
stool cxs were negative, blood cxs still pending on discharge 
and will need to be followed up on dc.
.
# Neutropenia. Probably secondary to Asacol. Resolved after 
DC'ing asachol. 
.
# Ulcerative colitis. Continued prednidone, pt dc'd on 35 mg q 
day with instructions to decrease to 30 mg in one week and 
continue until told to stop by GI. DC'd mesalamine. Continued 
omeprazole for gastric protection.  He was also dc'd on humalog 
sliding scale given elevated sugars while in house.  He will 
receive teaching by ___ and can be weaned off insulin as an 
outpt as prednisone is weaned.
.
# Atrial fibrillation. Patient with CHADs score of 2. Continued 
coumadin while inpt, however held on discharged for 
supratherapeutic INR.  He will f/u in ___ clinic two 
days post discharge.

# Hypertension. Held Lasix in the setting of acute infection. 
Was restarted on ___ home dose, may need to be uptitrated in the 
outpt setting.
.
# Gout. During his previous admission, patient suffered an acute 
flare of gout in his left finger and bilateral toes. His 
symptoms improved with prednisone. No sx of gout this admission. 
Continued febuxostat.

# CKD baseline creatinine 1.1-1.3 probably HTN induced. Remained 
at baseline.
 
Medications on Admission:
- atenolol 25 mg daily
- febuxostat 80 mg daily
- clobetasol 0.05% ointment topical daily prn
- furosemide 40 mg daily
- omeprazole 40 mg daily
- warfarin 2.5-5.0 mg daily as directed
- lovastatin 40 mg daily at bedtime
- prednisone taper (current dose should be 10 mg daily)
- mesalamine 1600 mg tid 
 
Discharge Medications:
1. Lovastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Prednisone 10 mg Tablet Sig: 3.5 Tablets PO DAILY (Daily): 
decrease your dose to 30 mg/day in 7 days, continue at that dose 
until you are told to change/stop by your doctor.
Disp:*30 Tablet(s)* Refills:*2*
3. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Lasix 40 mg Tablet Sig: ___ Tablet PO once a day.  
5. Febuxostat 40 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Clobetasol 0.05 % Ointment Sig: One (1)  Topical once a day.  

7. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
8. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous ASDIR (AS DIRECTED): per sliding scale  until your 
doctor tells you to stop.
Disp:*100 units* Refills:*2*
9. Outpatient Lab Work
Please go to coagulation clinic on ___ to have your INR 
checked
10. Lancets     Misc Sig: One (1)  Miscellaneous four times a 
day.
Disp:*120 * Refills:*2*
11. Syringe (Disposable)     Syringe Sig: One (1) 0.5 cc syringe 
Miscellaneous four times a day: 0.5 cc syringe.
Disp:*120 syringes* Refills:*2*
12. test strip  Sig: One (1) strip  four times a day: Please 
provide 120 test strips, 2 refills.
Disp:*120 * Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) Fever
2) Ulcerative colitis 
3) Diarrhea 
4) Neutropenia
5) Steroid-induced hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you here at ___. You were 
admitted for fevers and chills. Fortunately a complete 
infectious work up was negative. You remained without a fever. 
You were started on antiobiotics but these were discontinued as 
you continued to improve and had no source of infection. Your 
fevers and chills were thought to be most likely secondary to a 
viral syndrome or your ulcerative colitis. 
.
We have made the following changes to your medications: 
-STOP taking mesalamine as it lowered your white cell count
-CONTINUE taking prednisone.  You should continue taking 35 mg 
for 7 days, then decrease your dose by 5 mg and continue taking 
30 mg until your doctor tells you to stop.
-STOP taking warfarin until you are told to start by 
anticoagulation clinc (you should have your INR drawn on ___
-decrease your furosemide (lasix) to 20 daily
-start taking insulin per sliding scale instructions four times 
a day
.
Please call your doctor or return to the hospital if your 
symptoms worsen or if you develop new symptoms including chest 
pain or shortness of breath. 
 
Followup Instructions:
___